US04232014
N-(3,4-Dimethoxyphenylacetyl)-5-aminoethyl-6-methylindan (VII)
5-Aminoethyl-6-methylindan (4.0 g, 0.029 mole) was dissolved in 100 ml of dry benzene, 4 ml of triethylamine was added and a solution of the previously prepared 3,4-dimethoxyphenylacetyl chloride in dry benzene was added to the substituted indan mixture. The reaction mixture was refluxed for several hours and then gently heated overnight at a temperature below reflux. The reaction was then cooled, washed with 3×100 ml of 20% HCl solution, 3×100 ml of 8% NaHCO3 solution and 2×125 ml of water. The benzene layer was then reduced in volume on a rotary evaporator to yield a solid precipitate. The solid was filtered, washed with benzene, air dried to yield a slightly pink powder (3.5 g, mp 144°-145° C.). The crude product was then recrystallized from benzene (large volume), mp 144°-144.5° C.

reactant | 5-Aminoethyl-6-methylindan | 0.029 mole, 4.0 g | NCCC=1C=C2CCCC2=CC1C | C12H17N
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dimethoxyphenylacetyl chloride | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-(3,4-Dimethoxyphenylacetyl)-5-aminoethyl-6-methylindan | 3.5 g | COC=1C=C(C=CC1OC)CC(=O)NCCC=1C=C2CCCC2=CC1C | C22H27NO3
